US04013714
The compound ##EQU36## is prepared by adding 44 grams sodium metal to 900 ml. ethanol and adding 320 grams diethyl malonate to form a slurry of sodium diethyl malonate. To this slurry, 88 grams of ethylene oxide in 300 ml. ethanol is added, the temperature being maintained in the range of 40° to 45° C. The mixture is stirred for 14 hours at a temperature of 25° C and 120 ml. glacial acetic acid is added to form the compound (1). The ethanol is distilled from the slurry under reduced pressure; 500 ml. water is added to the residue to dissolve sodium acetate; the organic product phase is separated, dissolved in ether, washed with water, dried and stripped of ether, and distilled to yield purified ##EQU37## Step 2:

reactant | sodium | 44 grams | [Na] | Na
reactant | diethyl malonate | 320 grams | C(CC(=O)OCC)(=O)OCC | C7H12O4
solvent | ethanol | C(C)O | C2H6O
product | sodium diethyl malonate | C(CC(=O)OCC)(=O)OCC.[Na] | InChI=1S/C7H12O4.Na/c1-3-10-6(8)5-7(9)11-4-2;/h3-5H2,1-2H3;
